US04362546
N,N-diethyl-N'-(3-ethoxy-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide (Compound No. 37)
To 50 ml of acetone is added 3.0 g of N-(3-ethoxy-4-chlorophenyl)-3,4,5,6-tetrahydroisophthalimide and a solution of 0.8 g of diethylamine in 5 ml of acetone is dropwise added to the solution over the period of about 3 minutes under stirring at room temperature. The solution is stirred at room temperature for a further 4 hours and the solvent is distilled off under reduced pressure for concentration, and recrystallization of the resultant residue from n-hexane yields 2.2 g of the subject compound.

reactant | N-(3-ethoxy-4-chlorophenyl)-3,4,5,6-tetrahydroisophthalimide | 3.0 g | C(C)OC=1C=C(C=CC1Cl)N1C(C2=CC(C1=O)CCC2)=O | C16H16ClNO3
reactant | diethylamine | 0.8 g | C(C)NCC | C4H11N
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | N,N-diethyl-N'-(3-ethoxy-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | 2.2 g | C(C)N(C(C1=C(C(=O)NC2=CC(=C(C=C2)Cl)OCC)CCCC1)=O)CC | C20H27ClN2O3
